US04017622
Ethyl 1,4-dihydro-1-ethyl-7-(4-methyl-1-piperazinyl)-4-oxo-1,8-naphthyridine-3-carboxylate
A mixture containing 1.0 g of diethyl N-ethyl-N-[2-(4-methyl-1-piperazinyl)-6-pyridyl]aminomethylenemalonate and 6.0 g of polyphosphoric acid was heated at 140° C for 15 minutes, and then poured into ice-water. The resulting mixture was made alkaline with 28% aqueous ammonia and extracted with chloroform. The extract was washed with water and dried over anhydrous sulfate. Then the solvent was removed by distillation to leave a crude product which was recrystallized from n-hexane to yield 0.69 g of the product as pale yellow needles, m.p. 130° - 130.5° C.

reactant | diethyl N-ethyl-N-[2-(4-methyl-1-piperazinyl)-6-pyridyl]aminomethylenemalonate | 1.0 g | C(C)N(C1=CC=CC(=N1)N1CCN(CC1)C)C=C(C(=O)OCC)C(=O)OCC | C20H30N4O4
reactant | ammonia | N | H3N
product | Ethyl 1,4-dihydro-1-ethyl-7-(4-methyl-1-piperazinyl)-4-oxo-1,8-naphthyridine-3-carboxylate | 0.69 g | C(C)N1C=C(C(C2=CC=C(N=C12)N1CCN(CC1)C)=O)C(=O)OCC | C18H24N4O3
